US06822100B2
Oxalyl chloride (0.5 ml of 2.0 M solution in methylene chloride, 1.0 mmol) was diluted with dry methylene chloride (5.0 ml) and cooled to −78° C. under a nitrogen atmosphere. DMF (0.08 ml, 1.12 mmol) was added via a micro syringe and the solution was stirred at −78° C. for 10 min. A solution of 3-[2-(2-hydroxy-ethyl)cyclopropyl]-1-(toluene-4sulfonyl)-1H-indole-5-carbonitrile (250 mg, 0.657 mmol) in dry methylene chloride (5 ml) was added drop wise, and the solution was stirred at −78° C. for 1 hr, and then triethylamine (1.0 ml) was added. The solution was concentrated in vacuo, and the residue was dissolved in ethyl acetate (10 ml). The ethyl acetate solution was extracted with HCl (5 ml of 1 N solution), and with brine (5 ml). The ethyl acetate solution was dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel using methylene chloride as the eluent to give 3-[2-(2-oxo-ethyl)-cyclopropyl]-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile (167 mg, 67%). 1H NMR (500 MHz, CDCl3): δ 9.87 (s, 1H), 8.03 (d,1H), 7.96 (s, 1H), 7.74 (d, 2H), 7.56 (d, 1H), 7.35 (s, 1H), 7.25 (d, 2H), 2.59 (m, 2H), 2.36 (s, 3H), 1.67 (m, 1H), 1.30 (m, 1H), 1.30 (m, 1H), 1.02 (m, 1H), 0.89 (m, 1H). MS m/e 379.16 (MH+).

reactant | Oxalyl chloride | 1.0 mmol, 2.0 M, 0.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 1.12 mmol, 0.08 ml | CN(C)C=O | C3H7NO
reactant | 3-[2-(2-hydroxy-ethyl)cyclopropyl]-1-(toluene-4sulfonyl)-1H-indole-5-carbonitrile | 0.657 mmol, 250 mg | OCCC1C(C1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C21H20N2O3S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-(2-oxo-ethyl)-cyclopropyl]-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 167 mg, 67% | O=CCC1C(C1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C21H18N2O3S
